US07687502B2
[6-(4H-[1,2,4]Triazol-3-ylsulfanyl)-quinazolin-4-yl]-pyrazin-2-yl-amine
The compound of Example 5 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, 2-amino-pyrazine and 3-mercapto-1,2,4-triazole.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 2-amino-pyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | [6-(4H-[1,2,4]Triazol-3-ylsulfanyl)-quinazolin-4-yl]-pyrazin-2-yl-amine | N=1N=C(NC1)SC=1C=C2C(=NC=NC2=CC1)NC1=NC=CN=C1 | C14H10N8S
